US07420056B2
3.65 g (9.0 mmol) of [2-(5-bromothiophen-2-yl)-imidazo[1,2-a]pyrazin-3-yl]-(1,1,3,3-tetra-methyl-butyl)-amine were dissolved together with 1.18 ml (10.8 mmol) of phenylacetylene, 0.16 g (0.23 mmol) of bis(triphenylphosphine)-palladium(II) chloride and 0.08 g (0.45 mmol) of copper(I) iodide in DMF (30 ml). After addition of 2.50 ml (18.00 mmol) of triethylamine, the mixture was stirred at 50° C. for 16 h. The reaction solution was then diluted with EA and combined with a sat. aq. sodium carbonate solution. The phases were separated and the aqueous phase extracted with EA. The combined organic phases were washed 2× with a sat. aq. sodium carbonate solution and dried over magnesium sulfate. After filtration and removal of the solvents under a vacuum, column chromatography (EA/DIPE/DCM 3:3:4) was carried out with the group, after which 3.38 g (7.9 mmol, 88% of theoretical) of [2-(5-phenylethynyl-thiophen-2-yl)-imidazo[1,2-a]pyrazin-3-yl]-(1,1,3,3-tetramethyl-butyl)-amine were obtained.

reactant | [2-(5-bromothiophen-2-yl)-imidazo[1,2-a]pyrazin-3-yl]-(1,1,3,3-tetra-methyl-butyl)-amine | 9.0 mmol, 3.65 g | BrC1=CC=C(S1)C=1N=C2N(C=CN=C2)C1NC(CC(C)(C)C)(C)C | C18H23BrN4S
reactant | phenylacetylene | 10.8 mmol, 1.18 ml | C1(=CC=CC=C1)C#C | C8H6
reactant | triethylamine | 18.00 mmol, 2.50 ml | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | EA | CC(OCC)=O | C4H8O2
catalyst | bis(triphenylphosphine)-palladium(II) chloride | 0.23 mmol, 0.16 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.45 mmol, 0.08 g | [Cu]I
product | [2-(5-phenylethynyl-thiophen-2-yl)-imidazo[1,2-a]pyrazin-3-yl]-(1,1,3,3-tetramethyl-butyl)-amine | 7.9 mmol, 3.38 g, 88% | C1(=CC=CC=C1)C#CC1=CC=C(S1)C=1N=C2N(C=CN=C2)C1NC(CC(C)(C)C)(C)C | C26H28N4S
